US08895745B2
To a solution of 4-chloro-pyridin-2-ylamine (25.0 g, 0.194 mol) in EtOH (250 mL) was added NaHCO3 (32.7 g, 0.389 mol) followed by a 50% solution of chloroacetaldehyde in water (37 mL, 0.292 mol). The mixture was refluxed for 6 h. The solvents were removed under reduced pressure and the crude mixture was diluted with water (250 mL) and extracted with EtOAc (2×125 mL). The combined organic layers were washed with brine (50 mL), dried (MgSO4) and concentrated under reduced pressure to give 7-chloro-imidazo[1,2-a]pyridine (32.7 g). 1H NMR (400 MHz, CDCl3) δ 8.06 (1H, d), 7.64 (2H, d), 7.56 (1H, s), 6.79 (1H, dd).

reactant | 4-chloro-pyridin-2-ylamine | 0.194 mol, 25.0 g | ClC1=CC(=NC=C1)N | C5H5ClN2
reactant | NaHCO3 | 0.389 mol, 32.7 g | C(=O)(O)[O-].[Na+]
reactant | chloroacetaldehyde | ClCC=O | C2H3ClO
reactant | water | 0.292 mol, 37 mL | O | H2O
solvent | EtOH | 250 mL | CCO | C2H6O
product | 7-chloro-imidazo[1,2-a]pyridine | 32.7 g | ClC1=CC=2N(C=C1)C=CN2 | C7H5ClN2
